data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_234866_0,[N:1]([C:2]([N:4]([H:9])[H:10])=[C:5]([H:11])[H:12])([N:3]([H:7])[H:8])[H:6]>>[N:1](=[C:2](\[N:4]([H:9])[H:10])[C:5]([N:3]([H:7])[H:8])([H:11])[H:12])\[H:6],66.98562500000328
MR_400610_1,[C:1]([C:3]([O:4][C:2]([H:12])([H:13])[H:14])([O:7][H:11])[O:8][H:9])(=[O:5])[O:6][H:10]>>[C:1]([C:3]([O:4][C:2]([H:12])([H:13])[H:14])=[O:8])([O:5][H:9])([O:6][H:10])[O:7][H:11],38.2963250000104
MR_282670_0,[C:1]1([C:3]([H:17])([H:18])[H:19])([H:10])[C:6]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])([H:12])[C:7]1([C:5](=[O:9])[H:11])[H:13]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:5](=[O:9])[H:11])(/[C:7](=[C:6](/[C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])[H:12])[H:13])[H:10],63.36808749998752
MR_527028_0,[C:1]([C:2]([C:5](=[O:8])[H:14])([H:15])[H:16])(/[C:3]([N:4]([H:10])[H:11])=[N:7]\[O:6][H:9])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:2]([H:15])([H:16])[C:3]1([N:4]([H:10])[H:11])[N:7]([C:5](=[O:8])[H:14])[O:6][H:9],66.24329249996919
MR_251356_0,[C:1]1([C:4]([H:15])([H:16])[H:17])([N:6](/[C:7]([C:5]([H:18])([H:19])[H:20])=[N:8]/[H:10])[H:9])[C:2]([H:11])([H:12])[C:3]1([H:13])[H:14]>>[C:1](\[C:2]([C:3]([H:9])([H:13])[H:14])([H:11])[H:12])([C:4]([H:15])([H:16])[H:17])=[N:6]/[C:7]([C:5]([H:18])([H:19])[H:20])=[N:8]/[H:10],59.29498499999838
MR_364773_1,[N:1]([N:3]([H:9])[H:10])([O:4][C:2]([O:5][H:7])=[O:6])[H:8]>>[N:1]([C:2]([O:5][H:7])=[O:6])([O:4][N:3]([H:9])[H:10])[H:8],54.98908000002629
MR_366474_1,[C:1](\[C:2]([C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([O:7][H:10])=[O:8])[O:9][H:13])([H:14])[H:15])(=[N:6]/[H:12])[H:11]>>[C:1]([C:2]([C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])([H:14])[H:15])([C:4]([O:7][H:10])=[O:8])([N:6]([H:12])[H:13])[H:11],46.04595000002689
MR_603393_0,[C:1]([C:4](=[C:2]([O:6][H:10])[O:7][H:9])/[C:3]([N:5]([H:11])[H:12])=[N:8]\[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1=[C:3]([N:5]([H:11])[H:12])[N:8]([H:13])[C:2]1([O:6][H:10])[O:7][H:9])([H:14])([H:15])[H:16],45.58222749998493
MR_348535_0,[C:1]([N:4](/[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:10])/[N:7]=[N:8]\[H:9])([H:11])([H:12])[H:13]>>[C:1](/[N:4]=[C:5](/[C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])(/[N:7]=[N:8]\[H:9])[H:10])([H:11])([H:12])[H:13],56.56285000001219
MR_606838_0,[C:1]([C:3]([H:16])([H:17])[H:18])([C:6]1([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])/[C:5](=[N:8]/[H:12])[N:9]1[H:13])([O:7][H:10])[H:11]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:6](/[C:5]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])=[N:8]/[H:12])=[N:9]\[H:13])([O:7][H:10])[H:11],61.62489250003702
MR_253629_1,[C:1]([C:2](=[O:5])[H:12])([C:3]([O:6][H:8])=[O:7])([N:4]([H:9])[H:10])[H:11]>>[C:1]1([C:3]([O:6][H:8])=[O:7])([N:4]([H:9])[H:10])[C:2]([H:11])([H:12])[O:5]1,57.65720999996006
MR_165679_0,[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:3]([O:6][N:5]([H:9])[H:10])[O:7][H:8])([H:11])([H:12])[H:16]>>[C:1]([C:4]1([C:2]([H:13])([H:14])[H:15])[C:3]([N:5]([H:9])[H:10])([O:7][H:8])[O:6]1)([H:11])([H:12])[H:16],38.41366749999949
MR_546882_1,[C:1]([N:3]([C:4]([N:6]([H:9])[H:10])=[O:8])/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:7]\[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:4](\[N:6]([H:9])[H:10])[O:8]/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:7]\[H:11])([H:12])([H:13])[H:14],51.06908750000727
MR_510127_1,[C:1]([C:5](=[O:8])[H:11])([O:7]/[C:4]([C:2]([H:13])([H:14])[H:15])=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@:4]([C:2]([H:13])([H:14])[H:15])([C@@:6]([C:3]([H:16])([H:17])[H:18])([C:5](=[O:8])[H:11])[H:12])[O:7]1,65.24117500000244
MR_471027_1,[N:1]([N:2]([H:7])[H:8])([O:4]/[C:3](=[N:5]/[H:9])[H:10])[H:6]>>[N:1](=[N:2]/[H:7])\[O:4][C:3]([N:5]([H:8])[H:9])([H:6])[H:10],69.99950750000934
MR_82421_0,[C:1]([O:4][C:2](=[C:3]([H:8])[H:9])[H:7])(=[O:5])[H:6]>>[C:1](=[O:4])([O:5][C:2](=[C:3]([H:8])[H:9])[H:7])[H:6],48.96068750001575
MR_199344_0,[C:1](/[C:4](=[C:3](/[C:2]([O:6][H:9])=[O:8])[N:5]([H:11])[H:12])[O:7][H:10])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([O:7][H:10])[C:3]([N:5]([H:11])[H:12])=[C:2]([O:6][H:9])[O:8]1)([H:13])([H:14])[H:15],55.63791499999326
MR_7772_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([H:8])[H:9])(/[N:6]=[C:5](/[N:4]([H:10])[H:11])[H:12])[H:7]>>[C:1](\[C:2]([H:13])([H:14])[H:15])([N:3]([H:8])[H:9])=[N:6]\[C:5]([N:4]([H:10])[H:11])([H:7])[H:12],61.46613499997415
MR_685505_0,[C:1]([N:3]1[C:2]([H:12])([H:13])[N:4]1[H:9])(/[N:7]=[N:6]/[O:5][H:8])([H:10])[H:11]>>[C:1]([N:3](/[C:2](=[N:4]/[H:9])[H:13])[H:12])(/[N:7]=[N:6]/[O:5][H:8])([H:10])[H:11],54.17646750000912
MR_125663_1,[C:1]([C:4]([C:2]1([C:5](=[C:8]([H:18])[H:19])[H:10])[C:3](=[C:6]([H:14])[H:15])[O:9]1)=[C:7]([H:16])[H:17])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:2]([C:3]([C:5](=[C:8]([H:18])[H:19])[H:10])=[C:6]([H:14])[H:15])=[O:9])=[C:7]([H:16])[H:17])([H:11])([H:12])[H:13],62.38479500000892
